US09388189B2
(S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile
(S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile (24 mg, 0.04 mmol) was treated with trifluoroacetic acid (480 μl, 6.23 mmol) and a solution of ammonia (7N in methanol, 480 μl, 3.36 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 11 mg (56% yield) of the title compound.

reactant | (S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile | 0.04 mmol, 24 mg | COC=1C=C(C#N)C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H38N8O3Si
reactant | trifluoroacetic acid | 6.23 mmol, 480 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 3.36 mmol, 7N, 480 μl | N | H3N
product | (S)-3-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)benzonitrile | 11 mg, 56% yield | COC=1C=C(C#N)C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C29H24N8O2
